US05449686
6c. 3-Cyclopropylmethoxy-4-difluoromethoxybenzyl chloride
A solution of crude 3-cyclopropylmethoxy-4-difluoromethoxybenzyl alcohol (24.4 g) and pyridine (9.8 mL, 120 mmol) in chloroform (150 mL) under an argon atmosphere was treated with thionyl chloride (8.0 mL, 110 mmol) and the mixture was heated at reflux for 1 h. The solvent was removed, ether was added and the precipitate was removed by filtration. The filtrate was concentrated to a pale yellow oil (26 g).

reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzyl alcohol | 24.4 g | C1(CC1)COC=1C=C(CO)C=CC1OC(F)F | C12H14F2O3
reactant | pyridine | 120 mmol, 9.8 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 110 mmol, 8.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Cyclopropylmethoxy-4-difluoromethoxybenzyl chloride | C1(CC1)COC=1C=C(CCl)C=CC1OC(F)F | C12H13ClF2O2
